US07960394B2
2-[4-(3-Piperidin-1-ylpropoxy)phenyl]-3-(2,2,2-trifluoroethyl)-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 1 but starting from anthranilic acid, 2,2,2-trifluoroethylamine, 4-anisaldehyde, 1-chloro-3-bromopropane and piperidine.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
reactant | 4-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | 1-chloro-3-bromopropane | ClCCCBr | C3H6BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-[4-(3-Piperidin-1-ylpropoxy)phenyl]-3-(2,2,2-trifluoroethyl)-4(3H)-quinazolinone | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1CC(F)(F)F)=O | C24H26F3N3O2
